US08633175B2
To a mixture of methoxymethyl triphenylphosphonium chloride (35.5 g, 0.104 mol) in THF (400 mL) at 0° C. was added n-BuLi (33.1 mL of a 2.8M solution in hexanes; 0.095 mol). The mixture was stirred at 0° C. for 30 min., cooled to −78° C. and a solution of 4,4-dimethyl cyclohexanone (10.0 g, 0.079 mol) in THF (100 mL) was added, dropwise. After 1 hr at −78° C. the mixture was slowly warmed to 0° C., diluted with satd ammonium chloride (400 mL) and ethyl acetate (100 mL) and stirred at room temperature for 48 hr. Layers were separated and the aqueous phase was extracted with ethyl acetate. Combined organics were washed with brine, dried over Na2SO4, filtered and concentrated in vacuo. The residue was triturated with hexanes, solids were removed by filtration and the filtrated was concentrated in vacuo. The residue was dissolved in dichloromethane (40 mL), PS-TsNHNH2 (8 g; ca. 3.7 mmol/g) and acetic acid (2 drops) were added and the mixture was stirred at room temperature for 24 hr. Resin was removed by filtration and washed (CH2Cl2, MeOH, CH2Cl2). Combined filtrate/washings were concentrated in vacuo, affording (4,4-dimethyl cyclohexylidene)methyl methyl ether as an oil. 1H NMR (400 MHz, CDCl3) δ ppm 0.91 (s, 6H); 1.27 (m, 5H); 1.95 (m, 2H); 2.18 (m, 2H); 3.52 (s, 3H).

reactant | methoxymethyl triphenylphosphonium chloride | 0.104 mol, 35.5 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-BuLi | [Li]CCCC
reactant | 4,4-dimethyl cyclohexanone | 0.079 mol, 10.0 g | CC1(CCC(CC1)=O)C | C8H14O
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | ammonium chloride | 400 mL | [Cl-].[NH4+]
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | (4,4-dimethyl cyclohexylidene)methyl methyl ether | CC1(CCC(CC1)=COC)C | C10H18O
